US09376418B2
Tetrabutylammonium fluoride (1.0 M in THF, 33 μl, 0.033 mmol) was added to a solution of 1-(5-bromopyridin-3-yl)ethanone (65 mg, 0.33 mmol) and trimethyl(trifluoromethyl)silane (92 mg, 0.65 mmol) in THF (1.1 mL) at ambient temperature. After 30 minutes, the reaction mixture was diluted with water and extracted with DCM, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-30% ethyl acetate/hexanes, linear gradient) to afford 2-(5-bromopyridin-3-yl)-1,1,1-trifluoropropan-2-ol. MS ESI calc'd. for C8H8BrF3NO [M+H]+ 270 and 272. found 270 and 272. 1H NMR (500 MHz, CDCl3) δ 8.72 (s, 1H), 8.69 (d, J=2.5 Hz, 1H), 8.10-8.08 (m, 1H), 2.58 (s, 1H), 1.82 (s, 3H).

reactant | Tetrabutylammonium fluoride | 0.033 mmol, 1.0 M, 33 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(5-bromopyridin-3-yl)ethanone | 0.33 mmol, 65 mg | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
reactant | trimethyl(trifluoromethyl)silane | 0.65 mmol, 92 mg | C[Si](C(F)(F)F)(C)C | C4H9F3Si
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(5-bromopyridin-3-yl)-1,1,1-trifluoropropan-2-ol | BrC=1C=C(C=NC1)C(C(F)(F)F)(C)O | C8H7BrF3NO
